US07001897B2
1-(4-Azidomethyl-1,3-thiazol-2-yl)-3-t-butyldiphenylsilyloxyazetidine (2.47 g, 5.50 mmol) (obtained as described in Reference Example 62(1)) in methanol (120 ml) was subjected to catalytic hydrogenation in the presence of 20% palladium hydroxide (2.47 g) at room temperature. After checking the completion of the reaction, the reaction mixture was filtered in order to remove the catalyst and the filtrate concentrated under reduced pressure. The residue was dissolved in methylene chloride (115 ml). To the mixture were added thenoyl chloride (0.71 ml, 6.60 mmol) and triethylamine (0.92 ml, 6.60 mmol), and the mixture was stirred at room temperature for 1 hour. After checking the completion of the reaction, the mixture was distilled under reduced pressure. The residue was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (1:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-[4-(thiophene-2-carbonylamino)methyl-1,3-thiazol-2-yl]azetidine (1.88 g, yield 64%) as a pale yellow oil.

reactant | 1-(4-Azidomethyl-1,3-thiazol-2-yl)-3-t-butyldiphenylsilyloxyazetidine | 5.50 mmol, 2.47 g | N(=[N+]=[N-])CC=1N=C(SC1)N1CC(C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C23H27N5OSSi
reactant | thenoyl chloride | 6.60 mmol, 0.71 ml | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
reactant | triethylamine | 6.60 mmol, 0.92 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 120 ml | CO | CH4O
catalyst | palladium hydroxide | 2.47 g | [OH-].[Pd+2].[OH-]
product | 3-t-butyldiphenylsilyloxy-1-[4-(thiophene-2-carbonylamino)methyl-1,3-thiazol-2-yl]azetidine | 1.88 g, yield 64% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CNC(=O)C=1SC=CC1 | C28H31N3O2S2Si
